US09120777B2
A) Methyl 4-iodo-2-isopropoxybenzoate
2-Iodopropane (6.42 g) was added at room temperature to a mixture of methyl 2-hydroxy-4-iodobenzoate (7.00 g), potassium carbonate (6.96 g), and DMF (100 mL), and the resultant mixture was stirred at 70 C for 2 days in a nitrogen atmosphere. Water was added to the reaction mixture at room temperature, followed by extraction with ethyl acetate. The obtained organic layer was washed with water and saturated saline in this order and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (7.92 g)

reactant | 2-Iodopropane | 6.42 g | IC(C)C | C3H7I
reactant | methyl 2-hydroxy-4-iodobenzoate | 7.00 g | OC1=C(C(=O)OC)C=CC(=C1)I | C8H7IO3
reactant | potassium carbonate | 6.96 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | Methyl 4-iodo-2-isopropoxybenzoate | 7.92 g | IC1=CC(=C(C(=O)OC)C=C1)OC(C)C | C11H13IO3
